US06511995B1
According to the same manner as that described in Example 1 except for using an equimolar amount of 4-(trifluoromethyl)benzoic acid in place of 3,4-dichlorobenzoic acid and using an equimolar amount of 6-phenoxy-3-pyridinylamine obtained in Reference Example 32 in place of 4-[(5-amino-2-pyridinyl)oxy]-1-indanone, the reaction was carried out to obtain. the titled compound.

reactant | 4-(trifluoromethyl)benzoic acid | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | 6-phenoxy-3-pyridinylamine | O(C1=CC=CC=C1)C1=CC=C(C=N1)N | C11H10N2O
product | 4-[(5-amino-2-pyridinyl)oxy]-1-indanone | NC=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O | C14H12N2O2
